US07662830B2
3. 4-[4-(5-Bromo-3-methyl-pyridin-2-yl)-2-(R)-methyl-piperazin-1-yl]-2-chloro-6-(4-fluoro-phenyl)-pyrimidine
Heat a mixture of 2,4-dichloro-6-(4-fluoro-phenyl)-pyrimidine (6.0 g, 24.7 mmol), 1-(5-bromo-3-methyl-pyridin-2-yl)-3-(R)-methyl-piperazine (7.0 g, 25.9 mmol) and K2CO3 (6.8 g, 49.4 mmol) in DMA at 60° C. for 16 h. Partition the mixture between EtOAc and water, dry (Na2SO4) the organic layer and concentrate under reduced pressure. Purify with flash silica gel column eluting with 15% EtOAc/hexanes. Concentrate under reduced pressure to give the title compound.

reactant | 2,4-dichloro-6-(4-fluoro-phenyl)-pyrimidine | 24.7 mmol, 6.0 g | ClC1=NC(=CC(=N1)Cl)C1=CC=C(C=C1)F | C10H5Cl2FN2
reactant | 1-(5-bromo-3-methyl-pyridin-2-yl)-3-(R)-methyl-piperazine | 25.9 mmol, 7.0 g | BrC=1C=C(C(=NC1)N1C[C@H](NCC1)C)C | C11H16BrN3
reactant | K2CO3 | 49.4 mmol, 6.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMA | CC(=O)N(C)C | C4H9NO
product | 4-[4-(5-Bromo-3-methyl-pyridin-2-yl)-2-(R)-methyl-piperazin-1-yl]-2-chloro-6-(4-fluoro-phenyl)-pyrimidine | BrC=1C=C(C(=NC1)N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)Cl)C)C | C21H20BrClFN5
